US06414149B1
Step B: (R)-1-[4-(4-Pyridin-2-ylmethyl-piperazin-1-yl)-pyrimidin-2-yl]-ethanol
To a solution of (R)-1-[4-(4-pyridin-2-ylmethyl-piperazin-1-yl)-pyrimidin-2-yl]-ethyl acetate (prepared according to the method of Example 182, Step A, 0.14 g, 0.33 mmol) in dioxane (6 mL) was added at ambient temperature 6 N aqueous potassium hydroxide (0.5 mL). After stirring for 3 h the solution was diluted with ethyl acetate and washed twice with water. The organic layer was separated, dried over magnesium sulfate, filtered, and the filtrate was concentrated to give the title compound as a white solid, 0.09 g (69%). 1H NMR (CDCl3, 300 MHz) δ1.52 (d, 3H), 2.38-2.59 (m, 4H), 3.72-3.77 (m, 6H), 4.69 (q, 1H), 6.37 (d, 1H), 7.22 (d, 1H), 7.41 (d, 1H), 7.69 (m, 1H), 8.21 (d, 1H) 8.58, (d, 1H); mp: 68-70° C.; MS (CI) 300 (MH+); [α]D +16.2 (c 1.0, MeOH).

reactant | (R)-1-[4-(4-pyridin-2-ylmethyl-piperazin-1-yl)-pyrimidin-2-yl]-ethyl acetate | C(C)(=O)O[C@H](C)C1=NC=CC(=N1)N1CCN(CC1)CC1=NC=CC=C1 | C18H23N5O2
reactant | potassium hydroxide | 6 N, 0.5 mL | [OH-].[K+]
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)-1-[4-(4-Pyridin-2-ylmethyl-piperazin-1-yl)-pyrimidin-2-yl]-ethanol | N1=C(C=CC=C1)CN1CCN(CC1)C1=NC(=NC=C1)[C@@H](C)O | C16H21N5O
